US07338973B2
9-methoxy-12-[4-(2-pyrrolidin-1-yl-ethoxy)-benyl]-6,7-dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulene
Following the same procedure in Example 102, using 9-methoxy-6,7-dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulene (562 mg) and [2-(4-chloromethyl-phenoxy)-ethyl]-cyclopentyl-amine hydrochloride salt as the starting material, the title compound was prepared as a brown solid.

reactant | 9-methoxy-6,7-dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulene | 562 mg | COC=1C=CC2=C(C=3CCSC4=C(C3N2)C=CC=C4)C1 | C17H15NOS
reactant | [2-(4-chloromethyl-phenoxy)-ethyl]-cyclopentyl-amine hydrochloride salt | Cl.ClCC1=CC=C(OCCNC2CCCC2)C=C1
product | 9-methoxy-12-[4-(2-pyrrolidin-1-yl-ethoxy)-benyl]-6,7-dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulene | COC=1C=CC2=C(C=3CCSC4=C(C3N2CC2=CC=C(C=C2)OCCN2CCCC2)C=CC=C4)C1 | C30H32N2O2S
